US07196085B2
O-Benzotriazol-1-yl-N,N,N′N′-tetramethyluronium tetrafluoroborate (0.047 g, 0.15 mmol) and diisopropylethylamine (0.043 g, 0.25 mmol) were added sequentially at ambient temperature to a stirred solution 2-{[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]methyl}oct-4-enoic acid (0.051 g, 0.11 mmol) in dimethylformamide (2 ml), the mixture was stirred at ambient temperature for 48 hours, then it was added dropwise to ice-cold water (10 ml). The resulting solid was collected by filtration and dried in vacuo to give 1-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-hex-2-enylpyrrolidine-2,5-dione (0.029 g) as an off-white solid, m.pt. 146–149° C.; 250 MHz 1H-nmr (d6-DMSO) δ (ppm): 0.8–1.0 (m, 3H) (CH3), 1.2–1.4 (m, 2H) (—CH2CH3), 1.9–2.1 (m, 2H) (—CH2CH2CH3), 2.3–2.5 (m, 2H) (—CH2CH═CH—), 2.5–2.6 (m, 1H) (ring CH), 2.8–3.0 and 3.0–3.2 (2×m, 2H) (ring CH2), 4.4 (s, 2H) (ArCH2—), 5.25–5.45 and 5.45–5.7 (2×m, 2×1H) (—CH═CH—) 7.2–7.3 (m, 1H) (ArH), 7.3–7.5 (m, 1H) (ArH), 7.5–7.6 (m, 1H) (ArH), 7.8–8.05 (m, 3H) (3×ArH), 8.3 (d, 1H) (ArH), 12.65 (s, 1H) (CONH); m/z (M+H)+. 434, 95.8% purity.

reactant | diisopropylethylamine | 0.25 mmol, 0.043 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-{[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenylcarbamoyl]methyl}oct-4-enoic acid | 0.11 mmol, 0.051 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)NC(=O)CC(C(=O)O)CC=CCCC | C25H26FN3O4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-[2-fluoro-5-(4-oxo-3,4-dihydrophthalazin-1-ylmethyl)phenyl]-3-hex-2-enylpyrrolidine-2,5-dione | 0.029 g | FC1=C(C=C(C=C1)CC1=NNC(C2=CC=CC=C12)=O)N1C(C(CC1=O)CC=CCCC)=O | C25H24FN3O3
